US06180665B2
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine, α-form
To a cooled (10° C.) solution of tert-butyl (S,S,S)-N-(1-[3-(N6-benzyloxycarbonyl-N2-mesyllysylamino)-2-(tert-butoxycarbonyl)propyl]-1-cyclopentylcarbonyl)-O4-tert-butyltyrosinate (13.3 g, 15.0 mmol) in ethyl acetate (27 ml) was added a 5.1M solution of hydrogen chloride in ethyl acetate (70 ml) (357 mmol of HCl). After 30 minutes the initially clear solution deposited a tar. The mixture was stirred at room temperature for 18 hours. The clear solution was decanted off from the tar and the tar triturated with ethyl acetate (75 ml) to give a sticky solid. The decantation and trituration were repeated 5 times to give a hygroscopic solid which was dissolved in water (12 ml). The resulting aqueous solution was washed twice with ethyl acetate, basified with aqueous sodium hydroxide solution to pH 4.0, seeded with the compound of Example 1 and stirred at 45-50° C. for 42 hours. The off-white solids were collected by filtration, washed with water and acetone and dried to give the title compound (1.95 g), m.p. 237-238° C.

reactant | tert-butyl (S,S,S)-N-(1-[3-(N6-benzyloxycarbonyl-N2-mesyllysylamino)-2-(tert-butoxycarbonyl)propyl]-1-cyclopentylcarbonyl)-O4-tert-butyltyrosinate | 15.0 mmol, 13.3 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NS(=O)(=O)C)C(=O)NC[C@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C46H70N4O11S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 27 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 12 ml | O | H2O
solvent | ethyl acetate | 357 mmol, 70 ml | C(C)(=O)OCC | C4H8O2
product | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine | 1.95 g | C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O | C26H40N4O9S
